US05550134
(+)-(4aR)-(10bR)-4-methyl-8-[3-phenyl-4-(4-methoxyphenyl)-2-quinolinylthio]-10b-methyl-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-8-mercapto-10b-methyl-1,2,3,4,4a, 5,6,10b-octahydrobenzo[f]quinolin-3-one (60 mg, 0.23 mmol), potassium carbonate (158 mg, 1.14 mmol), 2-chloro-3-phenyl-4-(4-methoxyphenyl)quinoline (95 mg, 0.27 mmol) and 1 mL of anhydrous dimethylformamide, fitted with a reflux condenser, and the stirred mixture was heated at 60°, under nitrogen, for 18h. The mixture was cooled, diluted with ethyl acetate (75 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (ethyl acetate eluent) to give 56 mg (43%) of the title compound as an off white solid. mp 239°-242°. FDMS: m/e=570. α[D]589 =+45.00 (c=1.40, chloroform).

reactant | (+)-(4aR)-(10bR)-4-methyl-8-mercapto-10b-methyl-1,2,3,4,4a, 5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.23 mmol, 60 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)S)C)=O | C15H19NOS
reactant | potassium carbonate | 1.14 mmol, 158 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-3-phenyl-4-(4-methoxyphenyl)quinoline | 0.27 mmol, 95 mg | ClC1=NC2=CC=CC=C2C(=C1C1=CC=CC=C1)C1=CC=C(C=C1)OC | C22H16ClNO
reactant | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | (+)-(4aR)-(10bR)-4-methyl-8-[3-phenyl-4-(4-methoxyphenyl)-2-quinolinylthio]-10b-methyl-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinolin-3-one | 56 mg, 43% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)SC3=NC1=CC=CC=C1C(=C3C3=CC=CC=C3)C3=CC=C(C=C3)OC)C)=O | C37H34N2O2S
